* source MULTI-STAGE PROGRAMMABLE LOAD
X_M1         VCC N15247 N15072 power_nmos_p PARAMS: BVDSS=30.0 IDSS=1u
+  VGS_TH=1.5 RDSON=11.3m GFS=55 CISS=1380p COSS=235p CRSS=150p RG=1.65 VSD=1
+  QG=24n V_QG=10 TRR=10.5n
X_U3         DAC1 N15095 5V 0 N15251 LMV321A
V_V1         VCC 0 30
R_R1         N15247 N15251  1 TC=0,0 
C_C1         N15095 N15251  100n  TC=0,0 
V_V3         DAC2 0 3.3
R_R2         N15072 N15095  4.7 TC=0,0 
R_R3         N15072 0  0.1 TC=0,0 
V_V4         5V 0 5
V_V8         DAC1 0 DC 0 AC 0
+PULSE 0 3.3 0 5u 5u 1.0000e-8 2.1000e-6
